US06037342
5-Chloro-7-methyl-2-(4-methyl-1-piperazinyl)benzoxazole
5-Chloro-7-methyl-2-mercaptobenzoxazole (200 mg) was dissolved in chloroform (20 ml), N-methylpiperazine (0.55 ml) was added dropwise to the solution and then the mixture was stirred with heating for 3 days. After evaporation of the solvent, the thus obtained mixture was purified by a silica gel column chromatography (methylene chloride:methanol=20:1) to obtain the title compound 5-chloro-7-methyl-2-(4-methyl-1-piperazinyl)benzoxazole (270 mg).

reactant | 5-Chloro-7-methyl-2-mercaptobenzoxazole | 200 mg | ClC=1C=C(C2=C(N=C(O2)S)C1)C | C8H6ClNOS
reactant | N-methylpiperazine | 0.55 ml | CN1CCNCC1 | C5H12N2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-chloro-7-methyl-2-(4-methyl-1-piperazinyl)benzoxazole | 270 mg | ClC=1C=C(C2=C(N=C(O2)N2CCN(CC2)C)C1)C | C13H16ClN3O
